### PR TITLE
feat: allow a body on `proof_wanted` referencing other `proof_wanted`s

### PR DESCRIPTION
**Pull request by kim-em**
This PR (stacked on https://github.com/leanprover-community/batteries/pull/1814) extends `proof_wanted` to optionally take a body: `proof_wanted name binders : T := body`. Bracket references `❰foo❱` in the body are collected alongside those in the statement, deduplicated, and become extra hypothesis binders on the recorded `ProofWanted`. The body is type-checked against the statement via a `have`; the placeholder still carries no proof.

Diff against #1814's tip: https://github.com/leanprover-community/batteries/compare/proof_wanted...proof_wanted_body

A declaration that supplies a body but uses no `❰…❱` reference is rejected; such a body is a complete proof, and the declaration should be a `theorem`. The error includes a `Try this:` suggestion replacing it with a `theorem`.

Test coverage in [BatteriesTest/proof_wanted.lean](BatteriesTest/proof_wanted.lean) under "Bodies": body-only references that become binders; a reference shared between statement and body that is deduplicated; a body whose type check fails; a body using a parametrised `proof_wanted`; and the no-reference case showing the rendered `Try this:`.

🤖 Prepared with Claude Code, reviewed by Codex.

### CODE REVIEW

File: BatteriesTest/proof_wanted.lean [hunk 1]
```diff
@@ -92,6 +92,68 @@ of sort `Type`
 -/
 #guard_msgs in proof_wanted bad_not_a_prop (x : Nat) : Nat
 
+/-! ## Bodies for `proof_wanted`
+
+A `proof_wanted` may be given a body, which must reference at least one earlier `proof_wanted`
+via `❰…❱` (otherwise the body is a complete proof and should be a `theorem`). -/
+
+private def Foo : Nat := 17
+proof_wanted Foo_eq_37 : Foo = 37
```
Comment (fgdorais) [inline BatteriesTest/proof_wanted.lean]:
```suggestion
private def foo : Nat := 17
proof_wanted foo_eq_37 : Foo = 37
```

File: BatteriesTest/proof_wanted.lean [hunk 2]
```diff
@@ -92,6 +92,68 @@ of sort `Type`
...
+proof_wanted thirtyseven_eq_41 : (37 : Nat) = 41
+
+/-! A body that uses `❰…❱` to refer to earlier `proof_wanted`s works. The body is type-checked
+against the statement and the placeholder still has type `ProofWanted …`. Brackets that appear
+only in the body become extra hypothesis binders just as if they had appeared in the statement. -/
+proof_wanted Foo_eq_41 : Foo = 41 := by
+  rw [❰Foo_eq_37❱]; exact ❰thirtyseven_eq_41❱
```
Comment (fgdorais) [inline BatteriesTest/proof_wanted.lean]:
```suggestion
proof_wanted foo_eq_41 : foo = 41 := by
  rw [❰foo_eq_37❱]; exact ❰thirtyseven_eq_41❱
```

**Review by fgdorais — COMMENTED** [review]
Tests should also follow naming conventions.

File: BatteriesTest/proof_wanted.lean
Comment (eric-wieser) [inline BatteriesTest/proof_wanted.lean:1]: Can you add a test along the lines of

```lean4
theorem exists_ulift.{u} : ∃ x : ULift.{u} Nat, x.down = 1 := sorry

theorem exists_ulift'.{u, v} : ∃ x : ULift.{u} Nat, ∃ y : ULift.{v} Nat, x.down = y.down := by
  obtain ⟨x, hx⟩ := exists_ulift.{u}
  obtain ⟨y, hy⟩ := exists_ulift.{v}
  exact ⟨x, y, hx.trans hy.symm⟩
```
with the sorry replaced with `proof_wanted`? I kind of expect this to fail; if it does, please add a test with a TODO comment to flag it to other reviewers / future contributors.

**Review by eric-wieser — CHANGES_REQUESTED** [review]
Seems to be a bug with universe scoping:

```lean4
proof_wanted exists_ulift.{w} : ∃ x : ULift.{w} Nat, x.down = 1

/--
error: Tactic `rcases` failed: scrutinee has type
  ULift.{w, 0} Nat
of sort `Type w` but is expected to have type
  ULift.{u, 0} Nat
of sort `Type u`
-/
#guard_msgs in
proof_wanted exists_ulift'.{u} : ∃ x : ULift.{u} Nat, x.down = 1 := by
  obtain ⟨x : ULift.{u} Nat, hx⟩ := ❰exists_ulift❱
  exact ⟨x, y, hx.trans hy.symm⟩
```

File: Batteries/Util/ProofWanted.lean [hunk 3]
```diff
@@ -215,10 +243,21 @@ def elabProofWanted : CommandElab
...
+        private def $name $args* $extraBinders* : ProofWanted (($res' : Prop)) := ⟨⟩
+        end)
+    | some body' =>
+      elabCommand <| ← `(
+        section
+        set_option linter.unusedVariables false
+        private def $name $args* $extraBinders* : ProofWanted (($res' : Prop)) :=
+          have : ($res' : Prop) := $body'
+          ⟨⟩
+        end)
```
Comment (eric-wieser) [inline Batteries/Util/ProofWanted.lean:267]: Given we actually have a well-typed body here, why not keep it? This allows downstream code to potentially use the ProofWanted if they locally prove its hypotheses!

Comment (eric-wieser) [reply Batteries/Util/ProofWanted.lean:267]: This could look like changing `ProofWanted P` to `Option P`

Comment (fgdorais) [reply Batteries/Util/ProofWanted.lean:267]: It seems like you're asking for a vastly improved `sorry` here. That sounds like a great idea but maybe too much for this PR. Perhaps it's better to see how the ship floats before adding this.

**Review by fgdorais — APPROVED** [review]
Happy to merge once issues raised by Eric are addressed.
